US06613786B2
2-Acetylthiophene (21.6 ml, 0.20 mol) was dissolved in chloroform (200 ml) at −10° C. AlCl3 (54 g, 0.40 mole) was added in small portions at such a rate as to keep temperature below 5° C. A saturated solution of chlorine, Cl2, in chloroform (100 ml) was then added dropwise at −10° C. over a period of 30 minutes. After the addition was completed, the reaction mixture was immediately poured into a mixture of 1 L ice water and 500 ml of 1 N HCl and stirred for 30 minutes. The organic layer was separated, dried over Na2SO4, and concentrated under vacuum to a yellow liquid. NMR analysis showed this to be a 3:1 mixture of 4-chloro-2-acetylthiophene and 4,5-dichloro-2-acetylthiophene. Partial purification was achieved by a Kugelrohr distillation, yielding 4-chloro-2-acetylthiophene (31 g, 83% pure, 80% yield). This material was used without further purification in the next step. 1H NMR (300 MHz, CDCl3) δ7.53 (1H, d, J=1.2 Hz), 7.41 (1H, d, J=1.2 Hz), 2.54 (3H, s).

reactant | 2-Acetylthiophene | 0.20 mol, 21.6 ml | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | AlCl3 | 0.40 mole, 54 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | chlorine | ClCl | Cl2
reactant | HCl | 1 N, 500 ml | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-acetylthiophene | 31 g, 80% yield | ClC=1C=C(SC1)C(C)=O | C6H5ClOS
